US05430041
A mixture of 60 mg (0.13 mmol) of 2(S)-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide, 25 mg (0.13 mmol) of 3,5-dichlorobenzoic acid, 18 mg (0.13 mmol) of hydroxybenzotriazole hydrate and 27 mg (0.13 mmol) of dicyclohexylcarbodiimide in 2 ml of dimethylformamide was stirred at room temperature under nitrogen for 20 hours. The mixture was then filtered and the solid was washed with dichloromethane. The combined filtrate and washings were evaporated to dryness and the residue was partitioned between 50 ml of ethyl acetate and 10 ml of saturated aqueous sodium hydrogen carbonate solution. The separated organic phase was dried over anhydrous magnesium sulphate and evaporated. The residue was chromatographed on silica gel using 5% methanol in dichloromethane for the elution. The product was purified further by recrystallization from a mixture of 2 ml of dichloromethane and 10 ml of n-hexane to give 37 mg of 2(S)-[3(S)-[[N-(3,5-dichlorobenzoyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide as a white solid of melting point 220°-226° C.

reactant | 2(S)-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide | 0.13 mmol, 60 mg | N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C[C@H]1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C25H40N4O4
reactant | 3,5-dichlorobenzoic acid | 0.13 mmol, 25 mg | ClC=1C=C(C(=O)O)C=C(C1)Cl | C7H4Cl2O2
reactant | hydroxybenzotriazole hydrate | 0.13 mmol, 18 mg | O.OC1=CC=CC=2NN=NC21
reactant | dicyclohexylcarbodiimide | 0.13 mmol, 27 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2(S)-[3(S)-[[N-(3,5-dichlorobenzoyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-1(R)-cyclohexanecarboxamide | 37 mg | ClC=1C=C(C(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C[C@H]2[C@@H](CCCC2)C(=O)NC(C)(C)C)O)CC2=CC=CC=C2)C=C(C1)Cl | C32H42Cl2N4O5
